US04404302
A sample of 27.4 grams 2,2,4,4,6-pentamethyl-2,3,4,5-tetrahydropyrimidine was dissolved in 50 grams of ethanol. To the ethanolic solution was added 6.9 grams of sodium metal at such a rate that a temperature of 70°-80° C. was maintained. After the addition was completed, the mixture was heated for one hour at 85°-95° C. The mixture was allowed to cool to room temperature and water added to the mixture. The organic layer was extracted with toluene, the toluene extract washed with water, dried, and the toluene removed, yielding 2,2,4,4,6-pentamethyl-hexahydroprimidine.

reactant | 2,2,4,4,6-pentamethyl-2,3,4,5-tetrahydropyrimidine | 27.4 grams | CC1(N=C(CC(N1)(C)C)C)C | C9H18N2
reactant | sodium | 6.9 grams | [Na] | Na
reactant | water | O | H2O
solvent | ethanol | 50 grams | C(C)O | C2H6O
product | 2,2,4,4,6-pentamethyl-hexahydroprimidine | CC1(NC(CC(N1)(C)C)C)C | C9H20N2
